US06348459B1
Preparation of N-[[(5S)-3-[3-fluoro-4-(tetrahydro-2-methyl-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]ethanethioamide
N-[[(5S)-3-[3-fluoro-4-(tetrahydro-2-methyl-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (100 mg, 0.25 mmol) and Lawesson's Reagent (122 mg, 0.30 mmol) were dissolved in dioxane (10 mL) under nitrogen. The reaction is heated to 100° C. for 20 minutes then cooled to ambient and evaporated. The residue is partitioned between ethyl acetate (150 mL) and water (50 mL). The organic phase is washed 3 times with water (50 mL) and brine (50 mL), then dried over MgSO4, filtered and evaporated to a nearly colorless glass. The product is purified by radial chromatography over silica gel, eluting with 0-10% methanol-methylene chloride to give a white solid foam (89 mg, 85%). MP=95-98° C., decomposes.

reactant | N-[[(5S)-3-[3-fluoro-4-(tetrahydro-2-methyl-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.25 mmol, 100 mg | FC=1C=C(C=CC1C1CN(S(CC1)(=O)=O)C)N1C(O[C@H](C1)CNC(C)=O)=O | C17H22FN3O5S
reactant | Lawesson's Reagent | 0.30 mmol, 122 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-[[(5S)-3-[3-fluoro-4-(tetrahydro-2-methyl-1,1-dioxido-2H-1,2-thiazin-4-yl)phenyl]-2-oxo-5-oxazolidinyl]methyl]ethanethioamide | 89 mg, 85% | FC=1C=C(C=CC1C1CN(S(CC1)(=O)=O)C)N1C(O[C@H](C1)CNC(C)=S)=O | C17H22FN3O4S2
